US04667032
4-Acetyl-3H-phenothiazin-3-one
A solution of 3H-phenothiazin-3-one (2 g) and acetaldehyde (32 ml) in benzene (240 ml) was irradiated with a 450 watt lamp for 2 days. The volatiles were removed under vacuum and the residue chromatographed on a silica gel column eluting with 25% EtOAc/hexane to afford the desired compound, m.p. 222° C.

reactant | 3H-phenothiazin-3-one | 2 g | C1=CC(C=C2SC3=CC=CC=C3N=C12)=O | C12H7NOS
reactant | acetaldehyde | 32 ml | C(C)=O | C2H4O
solvent | benzene | 240 ml | C1=CC=CC=C1 | C6H6
product | 4-Acetyl-3H-phenothiazin-3-one | C(C)(=O)C=1C(C=CC2=NC3=CC=CC=C3SC12)=O | C14H9NO2S
